Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a pleasant ___ w/ early stage CLL w/ 13q 
deletion
in excellent physical condition who p/w cough and fever. 
Symptoms
started about 3 weeks ago around labor day when she slept most 
of
the day. Then about 1.5 wks ago, she developed a cough 
productive
of clear sputum. That seemed to improve. Not associated w/ any
F/C. Her husband developed a cold as well last week. 

Over the course of the past week, her cough started to improve.
However yesterday she developed a fever of 102.0F. She noted to
have runny nose, feeling like she can hear both on the inside 
and
outside of her ears. No N/V/D, myalgias, nor rigors. SHe was
advised to present to urgent care where CXR was negative for PNA
and felt improved after a dose of Levaquin and defervesced to
100.5F. She took that yesterday and today, but today febrile to
___ today on awakening and felt nauseated. She was advised to
report to the ED. She still has the cough but it is dry. Denied
any facial pain, no purulent nasal discharge, no neck
pain/headaches, no diarrhea, no other localizing symptoms.

In ED, tmax 103.2. She received 1L NS, 2 gm Cefepime, 1 gram
apap. CXR neg for PNA. On arrival to 11R, she felt improved. 

Of note, she was diagnosed with shingles last month localized to
her right anterior thorax which has been healing well. 

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
CLL 

PAST MEDICAL HISTORY (per OMR):
1.  Status post rotator cuff surgery ___. 
2.  Herniated disc and DJD cervical spondylosis.  Being 
evaluated
by Dr. ___ in the ___.
 
Social History:
___
Family History:
Mother died of gastric cancer at age ___, father
suffered from lung cancer at age ___ and her nonmaternal mother
was diagnosed with mesothelioma.  She has one brother who is
healthy.
 
Physical Exam:
VITAL SIGNS: ___ 100/60 74 16 92% RA
General:  NAD, Resting in bed comfortably, 
HEENT:  MMM, no OP lesions, she has mild left cervical 
adenopathy
> R, no supraclavicular adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities, shingles lesions on right
abdomen healing well
NEURO:  Grossly normal
 
Pertinent Results:
___ 07:40AM BLOOD WBC-106.4* RBC-3.20* Hgb-9.7* Hct-31.6* 
MCV-99* MCH-30.3 MCHC-30.7* RDW-17.4* RDWSD-61.7* Plt ___
___ 07:44AM BLOOD WBC-107.2* RBC-3.27* Hgb-9.9* Hct-32.8* 
MCV-100* MCH-30.3 MCHC-30.2* RDW-17.7* RDWSD-63.9* Plt ___
___ 07:45AM BLOOD WBC-105.4* RBC-3.21* Hgb-9.6* Hct-31.8* 
MCV-99* MCH-29.9 MCHC-30.2* RDW-17.1* RDWSD-61.5* Plt ___
___ 05:30PM BLOOD WBC-161.2* RBC-3.44* Hgb-10.1* Hct-34.8 
MCV-101* MCH-29.4 MCHC-29.0* RDW-17.2* RDWSD-61.1* Plt ___
___ 02:16PM BLOOD WBC-186.6* RBC-3.49* Hgb-10.5* Hct-34.8 
MCV-100* MCH-30.1 MCHC-30.2* RDW-17.7* RDWSD-60.2* Plt ___
___ 07:45AM BLOOD Neuts-9* Bands-0 Lymphs-90* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-9.49* 
AbsLymp-94.86* AbsMono-1.05* AbsEos-0.00* AbsBaso-0.00*
___ 05:30PM BLOOD Neuts-2* Bands-0 Lymphs-97* Monos-0 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-3.22 AbsLymp-156.36* 
AbsMono-0.00* AbsEos-1.61* AbsBaso-0.00*
___ 02:16PM BLOOD Neuts-1* Bands-0 Lymphs-99* Monos-0 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-1.87 AbsLymp-184.73* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 07:45AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-2+ Burr-1+ 
Tear ___
___ 05:30PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Ovalocy-1+
___ 02:16PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-OCCASIONAL Microcy-OCCASIONAL Polychr-OCCASIONAL 
Ovalocy-1+
___ 07:44AM BLOOD Glucose-86 UreaN-11 Creat-1.1 Na-139 
K-3.6 Cl-103 HCO3-25 AnGap-15
___ 07:45AM BLOOD Glucose-97 UreaN-13 Creat-1.2* Na-137 
K-3.7 Cl-103 HCO3-22 AnGap-16
___ 05:30PM BLOOD Glucose-114* UreaN-15 Creat-1.2* Na-135 
K-3.8 Cl-99 HCO3-24 AnGap-16
___ 02:16PM BLOOD Glucose-115* UreaN-15 Creat-1.1 Na-135 
K-4.1 Cl-102 HCO3-23 AnGap-14
___ 07:45AM BLOOD ALT-21 AST-39 LD(LDH)-225 AlkPhos-102 
TotBili-0.7
___ 05:30PM BLOOD ALT-20 AST-36 AlkPhos-115* TotBili-0.6 
DirBili-<0.2 IndBili-0.6
___ 07:44AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.1
___ 07:45AM BLOOD Albumin-3.8 Calcium-8.7 Phos-2.8 Mg-2.0
___ 05:30PM BLOOD Albumin-4.1 Phos-2.5* Mg-2.0
___ 07:44AM BLOOD IgG-717
.
IMPRESSION:    
Asymmetric new right infrahilar fullness, mass or adenopathy 
should be 
excluded.  CT chest recommended in further evaluation. 
  
RECOMMENDATION(S):  CT chest recommended in further evaluation 
.
IMPRESSION:  
  
Right hilar prominence which requires further evaluation with 
nonemergent 
chest CT scan.  No pneumonia. 
.
chest CT:
IMPRESSION: 
  
  
1. Bulky axillary, mediastinal, and bilateral hilar 
lymphadenopathy, right 
greater than left, without airway narrowing, is consistent with 
patient's 
history of CLL. 
2. No additional abnormality in the chest to explain patient's 
cough. 
3. Splenomegaly. 
.
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-PRELIMINARY {YEAST} INPATIENT 
___ URINE Legionella Urinary Antigen -FINAL 
INPATIENT 
___ Rapid Respiratory Viral Screen & Culture 
Respiratory Viral Antigen Screen-FINAL; Respiratory Viral 
Culture-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY  

 
Brief Hospital Course:
Assessment and Plan:
Pt is a ___ y.o woman with h.o CLL, not on treatment who 
presented with fever and cough. 

#Fever, likely due to viral syndrome, with functional
immunocomporomise d/t CLL. Therefore, pt was given IV
cefepime and azithromycin initially. Given now afebrile since
___ ___ and cx's thus far negative, transitioned to
PO levoflox ___. Imaging not revealing to a source of infection 
or a cause of cough. Pt remained afebrile on this regimen and 
therefore will plan for a 5 day course of therapy for possible 
bacterial respiratory/sinus cause as cultures remained negative 
to date during admission. Dr. ___ oncologist was aware 
of her admission and plan. 

#CLL, not and never under treatment, now with anemia and
thrombocytopenia and hilar fullness. IgG levels appropriate. CT 
performed and revealed hilar fullness c/w known dx of CLL. Pt 
will be following up with oncology after discharge to discuss 
potential for initiation of treatment for CLL.

#hilar fullness: CT chest shows known CLL. 

#fen-regular diet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Benzonatate 200 mg PO TID cough 
RX *benzonatate 200 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
2.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
3.  Cetirizine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fever
CLL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of fever. You had a work up 
that was not particularly revealing as to a specific cause. 
However, given your compromised immune system we will plan to 
treat you with antibiotics for a few days. Please be sure to 
follow up with your oncologist after discharge. 
 
Followup Instructions:
___